US06503907B2
In analogy to example 23.3, 5-Bromo-6-fluoro-1H-indole and 1-fluoro-4-iodobenzene were converted to yield 5-Bromo-1-(4-fluoro-phenyl)-6-fluoro-1H-indole as a light yellow solid, MS: 307 (M, 1Br).

reactant | 5-Bromo-6-fluoro-1H-indole | BrC=1C=C2C=CNC2=CC1F | C8H5BrFN
reactant | 1-fluoro-4-iodobenzene | FC1=CC=C(C=C1)I | C6H4FI
product | 5-Bromo-1-(4-fluoro-phenyl)-6-fluoro-1H-indole | BrC=1C=C2C=CN(C2=CC1F)C1=CC=C(C=C1)F | C14H8BrF2N
